US05728878
The apparatus of Example 2 was charged with 17.1 grams (0.1 mole) of ethyl 3-(N-vinylformamido)propionate, 3.0 grams (0.05 mole) of ethylenediamine and 0.12 gram of 25% sodium methoxide in methanol solution. The mixture was stirred at 90° C. for 3 hours, after which the ethanol coproduct was removed by distillation at reduced pressure. The mixture was then allowed to cool to room temperature yielding the crude product as a yellow solid. NMR analysis of the reaction mixture indicated nearly complete conversion of the ethylenediamine. The solid was recrystallized from toluene/acetone to give pale yellow crystals of 1,2-di-[3-(N-vinylformamido)propionamido]ethane. 1H NMR (CDCl3) δ, major rotamer: 2.46 (t, 4H, J=6.2 Hz), 3.30 (bs, 4H), 3.86 (t, 4H, J=7.3 Hz), 4.48 (d, 2H, J=8.7 Hz), 4.70 (d, 2H, J=15.8 Hz), 6.54 (d,d, 2H, J=9.1 Hz, J=15.6 Hz), 6.90 (bs, 2H), 8.25 (d, 2Hz, J=5.6 Hz); minor rotamer: most peaks overlapped with peaks of the major rotamer, except, 6.68 (bs, 2H), 7.13 (d,d, 2H, J=9.3 Hz, J=16.3 Hz), 8.14 (d, 2H, J=5.3 H). Major/minor rotamer ratio: 76:24.

reactant | ethyl 3-(N-vinylformamido)propionate | 0.1 mole, 17.1 grams | C(=C)N(C=O)CCC(=O)OCC | C8H13NO3
reactant | ethylenediamine | 0.05 mole, 3.0 grams | C(CN)N | C2H8N2
reactant | sodium methoxide | 0.12 gram | C[O-].[Na+]
solvent | methanol | CO | CH4O
product | 1,2-di-[3-(N-vinylformamido)propionamido]ethane | C(=C)N(C=O)CCC(=O)NCCNC(CCN(C=O)C=C)=O | C14H22N4O4
